US04877793
A mixture of ethyl 2-methyl-7-hydroxythieno[3,2-b]pyridine-6-carboxylate (21 g), potassium carbonate (12.2 g) and dry dimethylformamide (750 ml) was stirred at ambient temperature and iodomethane (6 ml) added. The mixture was stirred at ambient temperature for approximately 3.5 hours, then at 60° for 2 hours. The solvent was removed under reduced pressure to give a residue which on treatment with water (300 ml) gave the novel compound ethyl 2,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate, m.p. 143°-144°.

reactant | ethyl 2-methyl-7-hydroxythieno[3,2-b]pyridine-6-carboxylate | 21 g | CC1=CC2=NC=C(C(=C2S1)O)C(=O)OCC | C11H11NO3S
reactant | potassium carbonate | 12.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 6 ml | IC | CH3I
solvent | dimethylformamide | 750 ml | CN(C=O)C | C3H7NO
product | ethyl 2,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate | CC1=CC=2N(C=C(C(C2S1)=O)C(=O)OCC)C | C12H13NO3S
